US05073550
1.17 g of 3,4-diacetoxy-benzenesulphonyl chloride were added to a solution of 6.0 g of 2-(tritylamino)-4-thiazoleglyoxylic acid ethyl ester (Z)-O-(2-aminoethyl) oxime and 0.49 g of 4-dimethylamino-pyridine in 50 ml of N,N-dimethylformamide. The reaction solution was stirred at 20° C. for 3 hours, 10 ml of 2N sodium hydroxide solution were then added, and the solution was stirred at 20° C. for an additional hour. Then, 20 ml of water were added and the pH of the reaction mixture was lowered to 3 by the addition of 3N hydrochloric acid. The resulting precipitate was filtered off under suction, washed with a small amount of water and then heated to 50° C. for 40 minutes in 60 ml of 80% aqueous acetic acid. The mixture was cooled to 20° C. and evaporated completely in a vacuum. The residue was dissolved in 30 ml of methanol and treated in an ice bath with a total of 180 ml of diethyl ether. The precipitate was filtered off under suction, suspended in a small amount of water and brought into solution by the dropwise addition of 2N sodium hydroxide solution. The solution of pH 7.5 was applied to a MCI gel column (CHP20P) conditioned with 1% aqueous acetic acid and chromatographed according to the procedure described in the first paragraph of this Example. The product was eluted with a 9:1 (v/v) water/acetonitrile mixture. The pure fractions were concentrated completely in a vacuum and the solid residue was crystallized from methanol/diethyl ether. There was obtained 2-amino-4-thiazoleglyoxylic acid (Z)-O-[2-[(3,4-dihydroxyphenyl)sulphonamido]ethyl] oxime as white crystals of melting point 92°-94° C. (decomposition).

reactant | 3,4-diacetoxy-benzenesulphonyl chloride | 1.17 g | C(C)(=O)OC=1C=C(C=CC1OC(C)=O)S(=O)(=O)Cl | C10H9ClO6S
reactant | 2-(tritylamino)-4-thiazoleglyoxylic acid ethyl ester (Z)-O-(2-aminoethyl) oxime | 6.0 g | NCCO\N=C(/C(=O)OCC)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H28N4O3S
reactant | sodium hydroxide | 2N, 10 ml | [OH-].[Na+]
reactant | hydrochloric acid | 3N | Cl | ClH
catalyst | 4-dimethylamino-pyridine | 0.49 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | 2-amino-4-thiazoleglyoxylic acid (Z)-O-[2-[(3,4-dihydroxyphenyl)sulphonamido]ethyl] oxime | OC=1C=C(C=CC1O)S(=O)(=O)NCCO\N=C(/C(=O)O)\C=1N=C(SC1)N | C13H14N4O7S2
